US08383833B2
(1R)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-bromo-2-(2-chlorophenyl)acetate
To phosphorus tribromide (28 g, 103.4 mmol), 2-chlorophenylacetic acid (44 g, 257.9 mmol) was added. The mixture was stirred at 50° C. for 1 hour. After stirring, bromine (66 g, 413.0 mmol) was added thereto at the same temperature for reaction overnight. After the reaction, toluene (200 mL) and (2R)-1-oxo-1-pyrrolidinylpropane-2-ol (40.6 g, 283.6 mmol) were added thereto at the same temperature. Subsequently, triethylamine (34 g, 336.0 mmol) was added thereto to carry out reaction for 2 hours. After the reaction, water was added thereto. After the mixture was neutralized with a 30% sodium hydroxide aqueous solution, the organic layer was separated from the water layer and the water layer was disposed of. The obtained organic layer was washed with water, and the water layer was separated and disposed of. The organic layer was concentrated under reduced pressure to obtain 83.1 g of the target compound (221.8 mmol, 86%).

reactant | phosphorus tribromide | 103.4 mmol, 28 g | P(Br)(Br)Br | Br3P
reactant | 2-chlorophenylacetic acid | 257.9 mmol, 44 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | bromine | 413.0 mmol, 66 g | BrBr | Br2
reactant | (2R)-1-oxo-1-pyrrolidinylpropane-2-ol | 283.6 mmol, 40.6 g | O=C([C@@H](C)O)N1CCCC1 | C7H13NO2
reactant | triethylamine | 336.0 mmol, 34 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (1R)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2-bromo-2-(2-chlorophenyl)acetate | 221.8 mmol, 83.1 g, 86% | BrC(C(=O)O[C@@H](C(N1CCCC1)=O)C)C1=C(C=CC=C1)Cl | C15H17BrClNO3
